### PR TITLE
[Merged by Bors] - Misc lemmas about Specializes, Inseparable and path-connectedness

### PR DESCRIPTION
**Pull request by ADedecker**
Generalizing one of the proofs introduced in #7878

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Inseparable.lean [hunk 1]
```diff
@@ -634,3 +648,8 @@ theorem continuous_lift₂ {f : X → Y → Z} {hf : ∀ a b c d, (a ~ᵢ c) →
 #align separation_quotient.continuous_lift₂ SeparationQuotient.continuous_lift₂
 
 end SeparationQuotient
+
+theorem continuous_congr_of_inseparable (h : ∀ x, f x ~ᵢ g x) :
+    Continuous f ↔ Continuous g := by
+  simp_rw [SeparationQuotient.inducing_mk.continuous_iff (β := Y)]
+  refine continuous_congr fun x ↦ SeparationQuotient.mk_eq_mk.mpr (h x)
```
Comment (sgouezel) [inline Mathlib/Topology/Inseparable.lean:655]:
```suggestion
  exact continuous_congr fun x ↦ SeparationQuotient.mk_eq_mk.mpr (h x)
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
